US08729095B2
5-Fluoro-3-nitropyridine-2-amine (2.66 g) suspended in concentrated hydrochloric acid (35 ml) was cooled to −15° C., and an aqueous solution (7 ml) of sodium nitrite (2.57 g) was added dropwise over 10 minutes. After stirring at −10° C. for 1 hour, and further stirring at room temperature for 1 hour, under ice cooling a 30% aqueous sodium hydroxide solution was added for neutralization. The insolubles were collected by filtration, washed with water, air-dried, and then redissolved in ethyl acetate, before the insolubles were filtered off. The filtrate was concentrated under reduced pressure to afford 2-chloro-5-fluoro-3-nitropyridine (1.41 g).

reactant | 5-Fluoro-3-nitropyridine-2-amine | 2.66 g | FC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4FN3O2
reactant | sodium nitrite | 7 ml, 2.57 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 35 ml | Cl | ClH
product | 2-chloro-5-fluoro-3-nitropyridine | 1.41 g | ClC1=NC=C(C=C1[N+](=O)[O-])F | C5H2ClFN2O2
